US05216026
Preparation of N-(4-chlorophenyl)-N'-1-butanesulfonylurea
1-butanesulfonamide sodium salt (9.1 g, 57 mmole) was dissolved in water (40 ml) and acetone (40 ml) was added. To the resulting mixture was added dropwise 40 ml of acetone containing 4-chlorophenyl isocyanate (8.6 g). After two hours solid was removed from the reaction mixture by filtration. The solid was washed with water and the combined filtrate was treated with 1N HCl (57 ml). After about one hour, precipitate was collected from the filtrate and washed with water. After drying at 65° C. under vacuum, 10.7 g of product were obtained.

reactant | 1-butanesulfonamide sodium salt | 57 mmole, 9.1 g | [Na+].C(CCC)S(=O)(=O)[NH-]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
reactant | acetone | 40 ml | CC(=O)C | C3H6O
reactant | 4-chlorophenyl isocyanate | 8.6 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | water | 40 ml | O | H2O
product | N-(4-chlorophenyl)-N'-1-butanesulfonylurea | 10.7 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)CCCC | C11H15ClN2O3S
